US08293768B2
Synthesis of 2-(3-ethyl-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 2-(3-ethyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid to react with 3-(aminomethyl)pyridine, the title compound was obtained as a white powder in 16% yield: mp 163-164° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.56-8.48 (m, 2H), 7.66 (d, J=7.8 Hz, 1H), 7.28-7.17 (m, 1H), 6.23 (t, J=5.7 Hz, 1H), 4.55 (d, J=5.7 Hz, 2H), 4.12-4.03 (m, 2H), 3.58-3.53 (m, 2H), 3.35 (q, J=7.2 Hz, 2H), 2.58 (s, 3H), 1.18 (t, J=7.2 Hz, 3H); 13C NMR (75 MHz, CDCl3) δ 162.7, 157.5, 155.1, 153.6, 149.2, 148.8, 135.6, 133.9, 123.6, 116.6, 42.0, 41.5, 41.3, 38.5, 17.2, 12.5; MS (ES+) m/z 346.3 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 2-(3-ethyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C10H13N3O3S
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
product | 2-(3-ethyl-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 16% yield | C(C)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1)=O | C16H19N5O2S
